US07622471B2
5-Nitro-2-vinylpyridine
In an argon atmosphere, tributyl(vinyl)tin (6.658 g) and tetrakis(triphenylphosphine)palladium(0) (1.155 g) were added to 2-chloro-5-nitropyridine (3.171 g) and 2,6-di-tert-butyl-p-cresol (44 mg) in tetrahydrofuran (40 mL), followed by refluxing under heat for 14 hours. The resultant mixture was cooled in air. Subsequently, ethyl acetate and sodium fluoride (2.52 g) in water (60 mL) were added to the reaction mixture at room temperature, followed by stirring for 7 hours. The insoluble matter that was formed in the mixture was filtered. Water was added for partitioning the organic layer. The organic layer was washed with saturated brine, and dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure. The residue was purified through silica gel column chromatography (hexane-ethyl acetate), to thereby give the title compound as crystals (1.519 g, 50%).

reactant | tributyl(vinyl)tin | 6.658 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | 2-chloro-5-nitropyridine | 3.171 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium fluoride | 2.52 g | [F-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.155 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | 2,6-di-tert-butyl-p-cresol | 44 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
product | 5-Nitro-2-vinylpyridine | 1.519 g, 50% | [N+](=O)([O-])C=1C=CC(=NC1)C=C | C7H6N2O2
